US05116875
0.21 Gram of 5-chloro-2-fluoro-4-[2-chloro-4-(trifluoromethyl)phenylthio]aniline was dissolved in 6 ml of toluene, and to this solution was added dropwise a solution of 0.11 g of 2,6-difluorobenzoyl isocyanate in 4 ml of toluene with ice-cooling and stirring. After completion of addition, the reaction solution was stirred overnight at room temperature. Thereafter, 6 ml of n-hexane was added, the precipitated crystals were filtered off and dried to obtain 0.20 g of N-(2,6-difluorobenzoyl)-N'-[5-chloro-2-fluoro-4-{2-chloro-4-(trifluoromethyl)phenylthio}phenyl]urea as white crystals.

reactant | 5-chloro-2-fluoro-4-[2-chloro-4-(trifluoromethyl)phenylthio]aniline | ClC=1C(=CC(=C(N)C1)F)SC1=C(C=C(C=C1)C(F)(F)F)Cl | C13H7Cl2F4NS
reactant | 2,6-difluorobenzoyl isocyanate | 0.11 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | n-hexane | 6 ml | CCCCCC | C6H14
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-difluorobenzoyl)-N'-[5-chloro-2-fluoro-4-{2-chloro-4-(trifluoromethyl)phenylthio}phenyl]urea | 0.20 g | FC1=C(C(=O)NC(=O)NC2=C(C=C(C(=C2)Cl)SC2=C(C=C(C=C2)C(F)(F)F)Cl)F)C(=CC=C1)F | C21H10Cl2F6N2O2S
